US07709645B2
300 mg (0.564 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid, 105 mg (0.564 mmol) of 1-(2-diethylaminoethyl)piperazine, and 279 mg of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) were combined in 3.5 mL dimethyl formamide and stirred at room temperature for 48 hours. The reaction was extracted into ethyl acetate and washed with water. The water layer was back extracted three times with ethyl acetate. The layers were separated and the organic layer was dried over sodium sulfate and concentrated to dryness. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate (containing 10% methanol) and hexanes. The clean fractions containing the purified intermediate were evaporated to afford 230 mg (0.329 mmol, 58% yield) of {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone as a white solid. 1H NMR (500 MHz, CD3CN) δ 8.59 (d, 1H), 8.09 (s, 1H), 8.09 (d, 2H), 8.01 (s, 1H), 7.61 (dd, 1H), 7.43 (m, 4H), 7.23 (d, 1H), 7.18 (d, 1H), 7.11 (t, 1H), 4.67 (s, 2H), 3.88 (s, 3H), 3.60 (s, br., 4H), 2.52 (m, 12H), 0.99 (t, 6H); MS: m/z 699.3 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.564 mmol, 300 mg | NC1=C(C(=O)O)C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C28H22FN3O5S
reactant | 1-(2-diethylaminoethyl)piperazine | 0.564 mmol, 105 mg | C(C)N(CCN1CCNCC1)CC | C10H23N3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 279 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethyl formamide | 3.5 mL | CN(C=O)C | C3H7NO
product | {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone | 0.329 mmol, 230 mg, 58% yield | NC1=C(C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)C(=O)N2CCN(CC2)CCN(CC)CC | C38H43FN6O4S
